US08207147B2
Preparation 9: C-(3-Pyridin-4-yl-[1,2,4]oxadiazol-5-yl)methylamine
Trifluoroacetic acid (6.5 ml) was added to a solution of (3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)carbamic acid tert-butyl ester (Preparation 8, 420 mg, 1.52 mmol in CH2Cl2 (10 ml) and the mixture stirred at rt for 2 h. The solvent was evaporated and the residue dissolved in EtOAc (100 ml). After washing with saturated aqueous Na2CO3 (25 ml), the aqueous phase was re-extracted with 5% MeOH in CH2Cl2 (7×25 ml) and the combined organic phases dried (MgSO4). The solvent was removed to afford the title compound: RT=0.25 min; m/z (ES+)=177.1 [M+H]+.

reactant | Trifluoroacetic acid | 6.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=NC(=NO1)C1=CC=NC=C1)=O | C13H16N4O3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | C-(3-Pyridin-4-yl-[1,2,4]oxadiazol-5-yl)methylamine | N1=CC=C(C=C1)C1=NOC(=N1)CN | C8H8N4O
